US09126981B2
Synthesis of 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic Acid (Compound VI-9)
To a solution of tert-butyl 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetate (Compound V-5) (42.2 mg, 0.15 mmol) in tetrahydrofuran (1 ml) was added 4N HCl/dioxane (2 ml) and the mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated in vacuo to obtain the title compound (34 mg, 100%).

reactant | tert-butyl 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetate | 0.15 mmol, 42.2 mg | N1=CC=C(C=C1)CNC(NOCC(=O)OC(C)(C)C)=O | C13H19N3O4
reactant | HCl dioxane | 4N, 2 ml | Cl.O1CCOCC1
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic Acid | 34 mg, 100% | N1=CC=C(C=C1)CNC(NOCC(=O)O)=O | C9H11N3O4
